2158-02-07 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2158-2-6**] 06:06 PM
 MAGNETIC RESONANCE IMAGING - At [**2158-2-6**] 08:30 PM
   In MRI until 2145
 BLOOD CULTURED - At [**2158-2-6**] 10:30 PM
 URINE CULTURE - At [**2158-2-6**] 10:32 PM
 MULTI LUMEN - STOP [**2158-2-7**] 01:00 AM
   - neuro saw - concern that pt is not moving any of his limbs,
   recommended MRI to r/o epidural abscess - neuro looked MRI and saw
   significant foraminal narrowing, do not want us to do LP until they
   look at it in the morning
   - MRI c-spine final read pending
   - EEG read pending
   - per sister, patient is in wheelchair because he fell, had hip fx
   surgery and was unable to rehab properly [**2-27**] MR/lack of understanding
   - got FFP in preparation for LP which wasn't done - INR dropped to 1.6
   - LP to be done tomorrow after final MRI read, sister verbally
   consented over phone, consent in chart
   - spiked to 100.7, cultured, no abx coverage added
   - hypertensive to 160-170's, resolved on it's own
   - NGT placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-6**] 08:00 PM
   Vancomycin - [**2158-2-6**] 10:00 PM
   Acyclovir - [**2158-2-7**] 05:14 AM
   Ampicillin - [**2158-2-7**] 05:15 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2158-2-6**] 09:00 PM
   Famotidine (Pepcid) - [**2158-2-6**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-6**] 11:00 PM
   Dilantin - [**2158-2-7**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 105 (98 - 119) bpm
   BP: 158/72(86) {137/67(85) - 171/83(97)} mmHg
   RR: 19 (17 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,866 mL
                                                                    370 mL
   PO:
             TF:
   IVF:
                                                                  2,308 mL
                                                                    370 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  1,325 mL
                                                                    350 mL
   Urine:
                                                                  1,325 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General: NAD. Responsive but unintelligible to questions
   HEENT: PEERL, MMM
   Heart: RRR, no MRG
   Lungs: CTAB
   Abd: +BS, soft, ND, obese, did not appear tender
   Extrem: warm, no edema present
   Neuro: R sided hemiparesis with babinski sign. Left side- moves arms
   spontaneously.
   Peripheral Vascular: 2+DP
   Skin:  No lesions noted
   Labs / Radiology
   177 K/uL
   12.2 g/dL
   97 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   132 mEq/L
   32.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2158-2-4**]  11:52 AM
                             [**2158-2-5**]  09:00 PM
                             [**2158-2-6**]  05:06 AM
                             [**2158-2-6**]  05:41 PM
                             [**2158-2-7**]  03:17 AM
   WBC
   11.0
   10.1
   Hct
   34.6
   32.8
   Plt
   183
   177
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   22
   Glucose
   127
   129
   97
   Other labs: PT / PTT / INR:16.8/28.6/1.5, ALT / AST:201/124, Alk Phos /
   T Bili:98/0.7, Lactic Acid:2.8 mmol/L, Albumin:3.6 g/dL, LDH:393 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SEIZURE, WITH STATUS EPILEPTICUS
 ELECTROLYTE & FLUID DISORDER, OTHER
   68 year-old male with mental retardation who presents with fever and
   seizures concerning for meningitis, also R hemiparesis, positive
   troponin, and significant hypokalemia.
   # fever and seizures: Patient initially had status epilepticus in the
   setting of a fever.  Differential included meningitis, viral
   meningealencephalitis, systemic viral infection causing a fever and
   febrile seizure.  Patient has been on antibiotics and antiviral agents
   for two days without real improvement.  LP was attempted multiple times
   without success.  Patient had a head CT which was negative and a MRI
   which per neuro showed no evidence of stroke or infection. Neuro
   evaluated the patient and recommended an LP, however it is unclear if
   results of an LP would change management at this time.  In the setting
   of antibiotic use for two days, a negative cx and cell count would not
   be sufficent to stop antibiotics.
   - Will discuss further the need for Fluoro guided LP today with neuro.
   If needed, will give FFP to correct INR to goal < 1.5 prior to
   procedure at 13:00
   - continue vanc/ctx/amp/acyclovir for a 2 week course for empiric
   treatment of meningitis
   - EEG
   - f/u MRI results
   # R hemiparesis: [**Month (only) 51**] be due to menigitis/meningo-encephalitis, esp if
   due to HSV, but distribution is also concerning for infarct.  Neuro
   read of MRI did not find stroke.  Also in the differential is [**Doctor Last Name 2420**]
   paralysis, although this should have resolved by now.
   - f/u MRI/MRA
   - continue ASA for now due to concern for stroke
   - appreciate neurology consult, will f/u recs and discuss LP as above.
   # positive troponin/NSTEMI: echo with no evidence of wma reassuring.
   LDL of 101, goal of 70.
   - continue asa, anticoagulation as able
   - empiric atorvastatin 80mg daily for now
   - start beta blocker as able
   # Transaminitis: Patient was found to have a transaminitis with
   elevated AST, ALT, and LDH.  Given the patient
s clinical history this
   may represent a systemic viral illness causing nonspeific inflammation
   of the liver.
   - Will check hepatitis serologies.
   - Contineu to trend LFTs
   # hypokalemia: has been needing 300 mEq/day at nursing home. Suspicious
   for Bartter's or Gitelman's syndromes, esp with the associated MR,
   although admitting team talked to Dr [**First Name (STitle) **] (PCP) who said this is
   relatively new requirement (past year or so, following an admission for
   UTI).
   - aggressive IV and PO repletion with tid lytes
   - Appreciate renal c/s, will f/u recs.
   # h/o DVT/PE: has been anticoagulated chronically as an outpt, but
   given need for LP, will have to reverse his anticoagulation. At the
   same time, his new hemiparesis is another indication for
   anticoagulation, so will plan to start heparin after LP
   # Comm: [**Name (NI) 212**] (sister) c: [**Telephone/Fax (1) 4962**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-6**] 06:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2158-02-07 11:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Per Neuro, LP deferred until MRI spine reviewed. EEG completed. Febrile
   yest, pan-cx. Hypotension, transient and spont resolved. NGT placed
   yest for feeds.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2158-2-7**] 05:14 AM
   Vancomycin - [**2158-2-7**] 08:00 AM
   Ceftriaxone - [**2158-2-7**] 09:00 AM
   Ampicillin - [**2158-2-7**] 10:02 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2158-2-6**] 09:00 PM
   Dilantin - [**2158-2-7**] 06:10 AM
   Famotidine (Pepcid) - [**2158-2-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-7**] 08:00 AM
   Other medications:
   [**Last Name (LF) 1565**], [**First Name3 (LF) **], Prozac, Hep sc tid, Dilantin, Ampicillin, Colace, APAP
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-7**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 108 (98 - 119) bpm
   BP: 167/67(92) {138/67(85) - 171/83(97)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,866 mL
                                                                    846 mL
   PO:
             TF:
   IVF:
                                                                  2,308 mL
                                                                    846 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  1,325 mL
                                                                    720 mL
   Urine:
                                                                  1,325 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed, lethargic, LUE mvmt but no other extremity
   w/ spont mvmt
   Labs / Radiology
   12.2 g/dL
   177 K/uL
   97 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   132 mEq/L
   32.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2158-2-4**]  11:52 AM
                             [**2158-2-5**]  09:00 PM
                             [**2158-2-6**]  05:06 AM
                             [**2158-2-6**]  05:41 PM
                             [**2158-2-7**]  03:17 AM
   WBC
   11.0
   10.1
   Hct
   34.6
   32.8
   Plt
   183
   177
   Cr
   0.5
   0.6
   0.5
   0.5
   TCO2
   22
   Glucose
   127
   129
   97
   Other labs: PT / PTT / INR:16.8/28.6/1.5, ALT / AST:201/124, Alk Phos /
   T Bili:98/0.7, Lactic Acid:2.8 mmol/L, Albumin:3.6 g/dL, LDH:393 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.4 mg/dL
   Imaging: MRI spine- foraminal narrowing in Cspine at mult levels
   (prelim report)
   EEG- nondiagnostic
   CXR- no infiltrate
   Microbiology: Bloodx5 neg to date
   UCx neg to date
   Assessment and Plan
   POSS INFECTION VS CVA- [**Year (4 digits) 4966**], Neuro changes, leukocytosis. From our
   stnadpoint, clinical suspicion for meningitis v low
   -On Vanc/CTX/ampicllin and acylovir for empiric coverage of meningitis,
   HSV --> as per Neurology svce
   -Seen by neurology with differential for infectious processes
   (meningitis, encephalitis) or alternatively acute stroke as he is
   predominantly moving his left side
   -Continue close neuro checks
   -f/u final read MRI, poss EEG?
   -[**Year (4 digits) **] 325/ atorvastatin 80 qd --> NGT to give
   WEAKNESS- cervical spinal foraminal stenosis
   -C-collar per Neuro
   -mgmt as per Neuro
   REPEAT SEIZURE- dilantn level subtherapeutic, but also in the context
   of decreased MS [**First Name (Titles) **] [**Last Name (Titles) 4966**]
   -f/u Dilantin level, correct for albumin level
   DEMAND ISCHEMIA- resolving
   - Echo without wall motion abnormalities and  Cardiac enzymes now
   trending down.
   - Suspect more demand rather than the primary phenomenon, with
   aggravation by seizure/rhabdo
   - Add statin, otherwise monitor
    HYPOKALEMIA- Specific reason remains unclear; however over the past
   year he has required more supplmental potassium in the outpt setting.
   Pt's marginal MS and difficulty taking po may have prevented more rapid
   correct of hypokalemia. Will continue to replace- may need NGT for more
   effective oral administration.
   -Renal svce consulted
    PE/DVT- holding anticoag as procedures are pending; heparin gtt in the
   meantime
   TRANSAMINITIS- poss related to nonspec viral syndrome causing fever and
   subsequent seizure, versus poss HSV
   -screen for HBV, HCV
   -resolving today
   ACCESS- place PICC and pull TLC IJ in anticipation of at least full
   course of acyclovir
   FEN- poss NGT placement if fails speech and language pathology eval
   negative
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2158-2-6**] 06:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes